US05270327
1-(5.6-dichloro-3-oxoindan-1-carbonyl)-2-(piperidinomethyl)piperidine hydrochloride
From 1.5 g of 2-(piperidinomethyl)piperidine dihydrochloride, 2.5 g of 5,6-dichloro-3-oxoindan-1-carbonyl chloride and 45 ml of 1N aqueous sodium hydroxide solution. 1.1 g of the title compound was obtained, melting at 240°-245° C. (dec), using a procedure similar to that in Example 1.

reactant | 2-(piperidinomethyl)piperidine dihydrochloride | 1.5 g | Cl.Cl.N1(CCCCC1)CC1NCCCC1
reactant | 5,6-dichloro-3-oxoindan-1-carbonyl chloride | 2.5 g | ClC=1C=C2C(CC(C2=CC1Cl)C(=O)Cl)=O | C10H5Cl3O2
reactant | sodium hydroxide | 1N, 45 ml | [OH-].[Na+]
product | 1-(5.6-dichloro-3-oxoindan-1-carbonyl)-2-(piperidinomethyl)piperidine hydrochloride | 1.1 g | Cl.ClC=1C=C2C(CC(C2=CC1Cl)C(=O)N1C(CCCC1)CN1CCCCC1)=O | InChI=1S/C21H26Cl2N2O2.ClH/c22-18-10-15-16(11-19(18)23)20(26)12-17(15)21(27)25-9-5-2-6-14(25)13-24-7-3-1-4-8-24;/h10-11,14,17H,1-9,12-13H2;1H
